US04056537
A mixture of the starting material, tryptophol (32.2 g, 0.2 mole), acetonyl acetate (23.2 g, 0.2 mole) and 3.2 g of p-toluenesulfonic acid in 500 ml of benzene is refluxed for 11/2 hr. in the presence of a Dean-Stark water trap. The benzene solution is washed with 5% sodium bicarbonate, water, dried and evaporated to afford an oil. The oil is subjected to chromatography on a silica gel column using 10% ethyl acetate in benzene as eluent. The acetate 1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-methanol acetate is obtained as an oil, nmr(CDCl3) δ1.52 (S,3H), 2.08(S,3H), 4.35(2H).

reactant | tryptophol | 0.2 mole, 32.2 g | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
reactant | acetonyl acetate | 0.2 mole, 23.2 g | C(C)(=O)OCC(=O)C | C5H8O3
reactant | p-toluenesulfonic acid | 3.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | acetate 1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-methanol acetate | C(C)(=O)OCC1(OCCC2=C1NC1=CC=CC=C21)C.C(C)(=O)O | InChI=1S/C15H17NO3.C2H4O2/c1-10(17)18-9-15(2)14-12(7-8-19-15)11-5-3-4-6-13(11)16-14;1-2(3)4/h3-6,16H,7-9H2,1-2H3;1H3,(H,3,4)
